// "spectre" description for "16nm", "Controller_L1Read", "spectreText" 

simulator lang=spectre
subckt Controller_L1Read L1RE ReadFromL1Ack ReadWBFromL1Ack L1RdRegReq OutFIFOReq L1WBRegReq ReadFromL1Req L1RdRegAck ReadWBFromL1Req OutFIFOAck L1RAck L1WBRegAck
  I1 (p1 ReadFromL1Req L1RdRegAck) nand_1x
  I2 (p2 ReadWBFromL1Req L1RdRegAck) nand_1x
  I3 (p3 ReadFromL1Req ReadFromL1Req) nand_1x
  I4 (p4 ReadWBFromL1Req ReadWBFromL1Req) nand_1x
  I5 (p5 OutFIFOAck OutFIFOAck) nand_1x
  I6 (p6 L1RAck_n1 L1RdRegAck y1) nand3_1x
  I7 (L1RAck_n1 L1RAck) inv_1x
  I8 (p7 L1WBRegAck L1WBRegAck) nand_1x
  I9 (p8 L1RAck y0) nand_1x
  I10 (p9 L1RdRegAck y0) nand_1x
  I11 (p10 ReadFromL1Req_n1 L1RAck OutFIFOAck_n1 y y1) nand5_1x
  I12 (ReadFromL1Req_n1 ReadFromL1Req) inv_1x
  I13 (OutFIFOAck_n1 OutFIFOAck) inv_1x
  I14 (p11 L1RAck y0_n1) nand_1x
  I15 (y0_n1 y0) inv_1x
  I16 (p12 ReadWBFromL1Req_n1 L1RAck L1WBRegAck_n1 y0_n1 y1) nand5_1x
  I17 (ReadWBFromL1Req_n1 ReadWBFromL1Req) inv_1x
  I18 (L1WBRegAck_n1 L1WBRegAck) inv_1x
  I19 (p13 ReadFromL1Req_n1 L1RdRegAck y0_n1) nand3_1x
  I20 (p14 OutFIFOAck_n1 L1WBRegAck_n1 y1) nand3_1x
  I21 (p15 L1RAck_n1 L1RdRegAck_n1 OutFIFOAck_n1 L1WBRegAck_n1) nand4_1x
  I22 (L1RdRegAck_n1 L1RdRegAck) inv_1x
  I23 (y0 p1 p5 p8 p9) nand4_1x
  I24 (y1 p14 p15) nand_1x
  I25 (L1RE p1 p2 p6) nand3_1x
  I26 (ReadFromL1Ack p1 p5 p8 p9) nand4_1x
  I27 (ReadWBFromL1Ack p7 p11 p13) nand3_1x
  I28 (L1RdRegReq p3 p4 p6) nand3_1x
  I29 (OutFIFOReq p10 p10) nand_1x
  I30 (L1WBRegReq p12 p12) nand_1x
ends Controller_L1Read