// "spectre" description for "16nm", "Controller_TagRead", "spectreText" 


simulator lang=spectre

subckt Controller_TagRead FIFOAck TagRdRegReq ReadFromL1Req WriteToL1Req ReadFromL2Req TagWBRegReq ReadWBFromL1Req WriteToL1MissReq TagRE FIFOReq TagRdRegAck TagRAck Read ReadWBFromL1Ack TagHit TagMiss Write Dirty TagWBRegAck ReadFromL2Ack WriteToL1Ack ReadFromL1Ack WriteToL1MissAck WriteToL1MissTagAck Clean
  I1 (p1 FIFOReq TagRdRegAck) nand_1x
  I2 (p2 TagRAck_n1 y3_n1) nand_1x
  I3 (TagRAck_n1 TagRAck) inv_1x
  I4 (y3_n1 y3) inv_1x
  I5 (p3 Read ReadWBFromL1Ack_n1 y2_n1) nand3_1x
  I6 (ReadWBFromL1Ack_n1 ReadWBFromL1Ack) inv_1x
  I7 (y2_n1 y2) inv_1x
  I8 (p4 TagHit_n1 TagMiss_n1 y3_n1) nand3_1x
  I9 (TagHit_n1 TagHit) inv_1x
  I10 (TagMiss_n1 TagMiss) inv_1x
  I11 (p5 Read_n1 Write_n1 y3_n1) nand3_1x
  I12 (Read_n1 Read) inv_1x
  I13 (Write_n1 Write) inv_1x
  I14 (p6 TagMiss y4_n1) nand_1x
  I15 (y4_n1 y4) inv_1x
  I16 (p7 Dirty y5) nand_1x
  I17 (p8 ReadWBFromL1Ack y5) nand_1x
  I18 (p9 Write y9_n1) nand_1x
  I19 (y9_n1 y9) inv_1x
  I20 (p10 Read TagWBRegAck ReadWBFromL1Ack) nand3_1x
  I21 (p11 Read TagWBRegAck y5) nand3_1x
  I22 (p12 TagRAck TagWBRegAck y5) nand3_1x
  I23 (p13 ReadFromL2Ack_n1 TagWBRegAck y5) nand3_1x
  I24 (ReadFromL2Ack_n1 ReadFromL2Ack) inv_1x
  I25 (p14 TagMiss y6_n1) nand_1x
  I26 (y6_n1 y6) inv_1x
  I27 (p15 WriteToL1Ack WriteToL1Ack) nand_1x
  I28 (p16 ReadFromL1Ack ReadFromL1Ack) nand_1x
  I29 (p17 FIFOReq_n1 TagMiss Write TagRAck Dirty TagWBRegAck_n1 y10) nand7_1x
  I30 (FIFOReq_n1 FIFOReq) inv_1x
  I31 (TagWBRegAck_n1 TagWBRegAck) inv_1x
  I32 (p18 FIFOReq_n1 TagMiss Write TagRAck Dirty ReadWBFromL1Ack_n1 y10) nand7_1x
  I33 (p19 TagHit_n1 Read_n1 ReadWBFromL1Ack_n1 WriteToL1MissAck_n1 y3_n1) nand5_1x
  I34 (WriteToL1MissAck_n1 WriteToL1MissAck) inv_1x
  I35 (p20 Write TagWBRegAck ReadWBFromL1Ack) nand3_1x
  I36 (p21 TagMiss Read_n1 y2_n1) nand3_1x
  I37 (p22 Read_n1 TagRAck y2_n1) nand3_1x
  I38 (p23 Read_n1 Dirty y2_n1) nand3_1x
  I39 (p24 Read_n1 TagWBRegAck y2_n1) nand3_1x
  I40 (p25 Read_n1 ReadWBFromL1Ack y2_n1) nand3_1x
  I41 (p26 Read_n1 WriteToL1MissTagAck_n1 y2_n1) nand3_1x
  I42 (WriteToL1MissTagAck_n1 WriteToL1MissTagAck) inv_1x
  I43 (p27 Read_n1 WriteToL1MissAck_n1 y2_n1) nand3_1x
  I44 (p28 Read y7_n1) nand_1x
  I45 (y7_n1 y7) inv_1x
  I46 (p29 ReadFromL2Ack y10) nand_1x
  I47 (p30 Read y4_n1) nand_1x
  I48 (p31 TagRAck y4_n1) nand_1x
  I49 (p32 TagHit y9_n1) nand_1x
  I50 (p33 FIFOReq_n1 TagMiss Write TagRAck Clean WriteToL1MissTagAck_n1 y6) nand7_1x
  I51 (p34 FIFOReq_n1 TagMiss Write TagRAck Clean WriteToL1MissAck_n1 y6) nand7_1x
  I52 (p35 FIFOReq_n1 TagMiss Read TagRAck Dirty TagWBRegAck_n1) nand6_1x
  I53 (p36 FIFOReq_n1 TagHit Write TagRAck WriteToL1Ack_n1 y10) nand6_1x
  I54 (WriteToL1Ack_n1 WriteToL1Ack) inv_1x
  I55 (p37 FIFOReq_n1 TagHit Read TagRAck ReadFromL1Ack_n1 y10) nand6_1x
  I56 (ReadFromL1Ack_n1 ReadFromL1Ack) inv_1x
  I57 (p38 FIFOReq FIFOReq) nand_1x
  I58 (p39 WriteToL1MissTagAck y10) nand_1x
  I59 (p40 WriteToL1MissAck y10) nand_1x
  I60 (p41 TagRdRegAck y1) nand_1x
  I61 (p42 TagWBRegAck y1) nand_1x
  I62 (p43 TagHit_n1 Clean_n1 ReadWBFromL1Ack_n1 y3_n1) nand4_1x
  I63 (Clean_n1 Clean) inv_1x
  I64 (p44 FIFOReq_n1 TagMiss Read TagRAck Clean ReadFromL2Ack_n1 y9) nand7_1x
  I65 (p45 Dirty Dirty) nand_1x
  I66 (p46 Clean ReadFromL2Ack_n1 y9) nand3_1x
  I67 (p47 TagMiss y y10) nand3_1x
  I68 (p48 Clean Clean) nand_1x
  I69 (p49 WriteToL1MissTagAck WriteToL1MissAck y2) nand3_1x
  I70 (p50 Write WriteToL1Ack_n1 ReadWBFromL1Ack_n1 y10) nand4_1x
  I71 (p51 TagHit_n1 TagRAck y y10) nand4_1x
  I72 (p52 TagHit ReadFromL1Ack_n1 y9) nand3_1x
  I73 (p53 Read_n1 TagRAck y y9) nand4_1x
  I74 (p54 WriteToL1MissTagAck WriteToL1MissTagAck) nand_1x
  I75 (p55 WriteToL1MissAck WriteToL1MissAck) nand_1x
  I76 (p56 ReadFromL1Ack_n1 WriteToL1Ack_n1 ReadFromL2Ack_n1 WriteToL1MissAck_n1 y3_n1) nand5_1x
  I77 (p57 Write ReadWBFromL1Ack_n1 y9) nand3_1x
  I78 (p58 TagMiss_n1 Read_n1 TagRAck_n1 Dirty_n1 ReadFromL2Ack ReadWBFromL1Ack_n1 y10_n1) nand7_1x
  I79 (Dirty_n1 Dirty) inv_1x
  I80 (y10_n1 y10) inv_1x
  I81 (p59 FIFOReq_n1 y10_n1) nand_1x
  I82 (p60 TagRdRegAck Dirty_n1 ReadFromL1Ack_n1 WriteToL1Ack_n1 y10) nand5_1x
  I83 (p61 TagRdRegAck Dirty_n1 ReadFromL1Ack_n1 ReadFromL2Ack_n1 y9) nand5_1x
  I84 (p62 TagRdRegAck TagRdRegAck) nand_1x
  I85 (p63 FIFOReq_n1 TagWBRegAck_n1 y5) nand3_1x
  I86 (p64 WriteToL1Ack_n1 y8) nand_1x
  I87 (p65 ReadFromL2Ack_n1 y7) nand_1x
  I88 (p66 WriteToL1MissAck_n1 y6) nand_1x
  I89 (p67 Read_n1 y4) nand_1x
  I90 (p68 ReadFromL1Ack_n1 y10) nand_1x
  I91 (p69 Dirty_n1 y2) nand_1x
  I92 (p70 TagRdRegAck_n1 TagHit_n1 TagMiss_n1 Read_n1 Write_n1 TagRAck_n1 Clean_n1 ReadFromL1Ack_n1 WriteToL1Ack_n1 ReadFromL2Ack_n1 TagWBRegAck_n1 WriteToL1MissTagAck_n1 WriteToL1MissAck_n1) nand13_1x
  I93 (TagRdRegAck_n1 TagRdRegAck) inv_1x
  I94 (p71 TagMiss_n1 Write_n1 TagRAck_n1 Dirty_n1 TagWBRegAck_n1 ReadWBFromL1Ack_n1 WriteToL1MissTagAck WriteToL1MissAck) nand8_1x
  I95 (y0 p1 p3 p9 p20 p21 p22 p23 p24 p25 p26 p27 p33 p35 p56) nand14_1x
  I96 (y1 p10 p16 p30 p31 p32 p41 p42 p58) nand8_1x
  I97 (y2 p2 p4 p10 p17 p19 p38 p42 p69 p71) nand9_1x
  I98 (y3 p15 p16 p20 p29 p35 p49 p59 p63 p70) nand9_1x
  I99 (y4 p3 p35 p58 p67 p68 p70) nand6_1x
  I100 (y5 p6 p7 p8 p10 p13 p15 p16 p29 p30 p31 p49 p63 p70 p71) nand14_1x
  I101 (y6 p33 p59 p66 p70) nand4_1x
  I102 (y7 p59 p65 p70) nand3_1x
  I103 (y8 p64 p70) nand_1x
  I104 (y9 p1 p2 p4 p14 p15 p17 p19 p39 p40 p46 p52 p53 p57 p61) nand14_1x
  I105 (y10 p1 p2 p4 p17 p19 p28 p29 p39 p40 p47 p48 p50 p51 p60) nand14_1x
  I106 (FIFOAck p15 p16 p28 p29 p30 p31 p32 p42 p47 p48 p51 p52 p53 p54 p55 p57 p58 p62) nand18_1x
  I107 (TagRdRegReq p6 p8 p9 p11 p12 p13 p21 p22 p24 p25 p26 p27 p33 p38 p45 p56) nand16_1x
  I108 (ReadFromL1Req p37 p37) nand_1x
  I109 (WriteToL1Req p36 p36) nand_1x
  I110 (ReadFromL2Req p6 p7 p8 p10 p11 p12 p13 p44) nand8_1x
  I111 (TagWBRegReq p3 p17 p18 p35) nand4_1x
  I112 (ReadWBFromL1Req p3 p17 p18 p35) nand4_1x
  I113 (WriteToL1MissReq p9 p20 p21 p22 p23 p24 p25 p26 p27 p33 p34) nand11_1x
  I114 (TagRE p1 p2 p3 p4 p5 p17 p19 p33 p35 p43) nand10_1x
ends Controller_TagRead